Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pituitary adenoma
 
Major Surgical or Invasive Procedure:
___ Transphenoidal resection of tumor

 
History of Present Illness:
Mr. ___ is a ___ year old male with a hitory of a prior 
transphenoidal resection on ___ at ___ by Dr. ___. 
His cystic pituitary mass was originally found incidentally in 
___, after he had imaging for a complaint of tinnitus.  He now 
presents for a re-resection of the pituitary lesion. The initial 
pathology from ___ was adenoma. 
 
Past Medical History:
transsphenoidal resection ___, polyp s/p lap,
and hypothyroidism
 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam on Admission
Neural intact. Visual fields full.

On Discharge:
A&Ox3
PERRL 
visual fields intact
No pronator drift
No leaking from nose when sitting up and leaning forward
Motor: ___ throughout

 
Pertinent Results:
CT HEAD W/O CONTRAST ___ 
Status post transsphenoidal resection of pituitary lesion with 
expected 
postoperative changes. No evidence of pneumocephalus or 
intracranial 
hemorrhage. 

 
Brief Hospital Course:
Mr. ___ was taken to the operating room on the day of 
admission on ___ and underwent a transphenoidal resection of a 
pituitary lesion. He tolerated the procedure well and was 
extubated in the operating room. He was transferred to the Neuro 
ICU post-operatively. Nasal packing was left in place 
post-operatively and he was started on antibiotics for the 
duration of the packing placement. He underwent a post-operative 
non-contrast head CT which showed post-operative changes. His 
diet as advanced as tolerated. His visual fields, as well as 
urine and serum labs were routinely monitored.
On ___ Mr ___ remained in the PACU. He was completely 
neurologically intact. Vitals remained stable and he was 
ambulatory out of bed to chair. Transfer orders pending and  
awaiting transfer to floor.

On ___, patient had two hours of increase urine output, urine 
specific gravity and serum Na which were normal. Endocrine 
evaluated the patient who recommended starting him on 40mg QAM 
and 20mg QPM hydrocortisone today and decreasing to 20mg QAM and 
10mg QPM tomorrow. They were not concerned with his output and 
recommended discharge home. On exam, no drainage from the nose 
or salty taste at the back of the throat. He was ambulating and 
eating appropriately. He was discharge home and will be contact 
for further follow up with endocrinology.

 

 
Medications on Admission:
c
abergoline,fluocinonide,levothyroxine,simvastatin,Cialis,aspirin 
81, VITAMIN D2,multivitamin tablet

 
Discharge Medications:
1. Hydrocortisone 20 mg PO REFER TO OTHER INSTRUCTIONS 
please take 40mg QAM on ___ and 20mg QPM on ___, then 20mg QAM 
and 10mg QPM until follow up. 
RX *hydrocortisone 20 mg 1 tablet(s) by mouth refer to other 
instructions Disp #*60 Tablet Refills:*1
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth DAILY Disp #*60 
Capsule Refills:*1
4. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
5. Simvastatin 10 mg PO QPM 
6. Vitamin D 1400 UNIT PO DAILY 
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pituitary adenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Take your pain medicine as prescribed.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Continue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
If you have been discharged on Prednisone, take it daily as 
prescribed.  
If you are required to take Prednisone, an oral steroid, make 
sure you are taking a medication to protect your stomach 
(Prilosec, Protonix, or Pepcid), as this medication can cause 
stomach irritation.  Prednisone should also be taken with a 
glass of milk or with a meal. 

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
It is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a dripping 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
Fever greater than or equal to 101 F.
If you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 

 
Followup Instructions:
___